US08859592B2
To a solution of 7-[5-(3,5-dichlorophenyl)-5-(trifluoromethyl)-4,5-dihydro-isoxazol-3-yl]-benzo[1,2,5]thiadiazole-4-carboxylic acid methyl ester (4.01 g) (Example I7) in tetrahydrofuran (30 ml) was added aqueous sodium hydroxide (1M) (25.3 ml). The reaction mixture was stirred at ambient temperature for 1.5 hours. Aqueous hydrochloric acid (1M) (100 ml) was added and the mixture diluted with ethyl acetate (150 ml). After separation of the layers, the aqueous layer was extracted with ethyl acetate (2×75 ml). The combined organic layers were washed with water (75 ml) and brine (75 ml), dried over sodium sulfate and concentrated. The residue was purified by column chromatography (dichloromethane/methanol) to give 7-[5-(3,5-dichloro-phenyl)-5-trifluoromethyl-4,5-dihydro-isoxazol-3-yl]-benzo[1,2,5]thiadiazole-4-carboxylic acid (1.29 g) as yellow solid. 1H-NMR (DMSO-d6, 400 MHz): 13.67 (bs, 1H), 8.37-7.26 (m, 5H), 4.76 (d, 1H), 4.53 (d, 1H) ppm.

reactant | 7-[5-(3,5-dichlorophenyl)-5-(trifluoromethyl)-4,5-dihydro-isoxazol-3-yl]-benzo[1,2,5]thiadiazole-4-carboxylic acid methyl ester | 4.01 g | COC(=O)C1=CC=C(C=2C1=NSN2)C2=NOC(C2)(C(F)(F)F)C2=CC(=CC(=C2)Cl)Cl | C18H10Cl2F3N3O3S
reactant | sodium hydroxide | 1M, 25.3 ml | [OH-].[Na+]
reactant | hydrochloric acid | 1M, 100 ml | Cl | ClH
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | 150 ml | C(C)(=O)OCC | C4H8O2
product | 7-[5-(3,5-dichloro-phenyl)-5-trifluoromethyl-4,5-dihydro-isoxazol-3-yl]-benzo[1,2,5]thiadiazole-4-carboxylic acid | 1.29 g | ClC=1C=C(C=C(C1)Cl)C1(CC(=NO1)C1=CC=C(C2=NSN=C21)C(=O)O)C(F)(F)F | C17H8Cl2F3N3O3S
